US08058285B2
12.68 g (65.9 mmol) 2-thiophene-2-yl-methylene-cyclohexanone, 7.00 g (70.0 mmol) cyanthioacetamide and 10.00 g (72.4 mmol) potassium carbonate are refluxed in 100 ml acetone for 8 h. Then, 1.05 g (32.8 mmol) sulfur are added and refluxed for 12 h. The solvent is removed in vacuo and the residue is suspended in 600 ml ethanol/water (1:5). Following acidification with glacial acetic acid, the resulting precipitate is sucked off, washed with 200 ml water, suck dried and dried in vacuo at 50° C. 16.50 g (92%) 5,6,7,8-tetrahydro-2-mercapto-4-thiophen-2-yl-quinoline-3-carbonitrile is obtained.

reactant | 2-thiophene-2-yl-methylene-cyclohexanone | 65.9 mmol, 12.68 g | S1C(=CC=C1)C1C(CCCC1=C)=O | C11H12OS
reactant | cyanthioacetamide | 70.0 mmol, 7.00 g | C(#N)CC(=S)N | C3H4N2S
reactant | potassium carbonate | 72.4 mmol, 10.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | sulfur | 32.8 mmol, 1.05 g | [S] | S
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 5,6,7,8-tetrahydro-2-mercapto-4-thiophen-2-yl-quinoline-3-carbonitrile | 16.50 g, 92% | SC1=NC=2CCCCC2C(=C1C#N)C=1SC=CC1 | C14H12N2S2
